US03952033
Adaption of the above-described procedures to the preparation of the other compounds of this invention essentially involves the lengthening or shortening of, or the introduction of one or two lower alkyl groups into, the side-chains in furans (I) or (XVII) or in phosphonium derivative (III). These adaptations can be accomplished by procedures well-known to the art. For example, isopropyl γ-(2-furyl)butyrate provides 2,5-dihydro-2,5-di-n-propoxy-2-(3'-carbo-isopropoxypropyl)furan in n-propanol whereas methyl δ-(2-furyl)valerate provides 2,5-dihydro-2,5-diethoxy-2-(4'-carbomethoxybutyl)furan in ethanol when treated in the manner described for the conversion of (I) to (II). Similarly, ω-(2-furyl)caproic acid and ω-(2-furyl)enanthic acid provide 2,5-dihydro-2,5-diethoxy-2-(5'-carboxyentyl)furan and 2,5-dihydro-2,5-diethoxy-2-(6'-carboxyhexyl)furan when treated in ethanol in the manner described for the conversion of (XVII) to (XVIII). Optionally, the furyl acids may be first esterified prior to oxidative alkoxylation, and all 2,5-dihydro-2,5-dialkoxy-2-(carboalkoxyalkyl)furans may be converted to the corresponding aldehydes in the manner described for the conversion of (II) to (IV). Also, the reaction of 3-carboxypropyltriphenylphosphonium bromide and 5-carboxy-3,4-dimethylamyltriphenylphosphonium bromide with 2,5-dihydro-2,5-diethoxy-2-(4'-oxobutyl)furan and 2,5-dihydro-2,5-diethoxy-2-(2'-oxoethyl)furan, respectively, provides the 2,5-dihydro-2,5-diethoxy-2-(7'-carboxy-4'-cis-heptenyl)furan and 2,5-dihydro-2,5-diethoxy-2-(7'-carboxy-5',6'-dimethyl-2-cis-heptenyl)furan.

reactant | isopropyl γ-(2-furyl)butyrate | O1C(=CC=C1)CCCC(=O)OC(C)C | C11H16O3
reactant | methyl δ-(2-furyl)valerate | O1C(=CC=C1)CCCCC(=O)OC | C10H14O3
reactant | n-propanol | C(CC)O | C3H8O
solvent | phosphonium | [PH4+]
solvent | ethanol | C(C)O | C2H6O
product | 2,5-dihydro-2,5-diethoxy-2-(4'-carbomethoxybutyl)furan | C(C)OC1(OC(C=C1)OCC)CCCCC(=O)OC | C14H24O5
